US07153854B2
To a solution of (7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl)methanol (40 mg) in N,N-dimethylformamide (1 mL) was added 40% sodium hydride in oil (5.5 mg) in an ice-water bath. After 20 minutes, to the mixture was added 2-bromoethyl acetate (31 mg) at the temperature. After 15 minutes, the reaction mixture was stirred at ambient temperature for 5 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water three times and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by p-TLC (hexane-ethyl acetate=10-1) to give [7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]methyl acetate as a pale yellow solid (42 mg).

reactant | (7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl)methanol | 40 mg | ClC1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)CO)C(C)C | C17H16ClFN2O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromoethyl acetate | 31 mg | C(C)(=O)OCCBr | C4H7BrO2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | [7-chloro-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazin-3-yl]methyl acetate | 42 mg | C(C)(=O)OCC1=C(C=2N(N=C1C(C)C)C(=CC2)Cl)C2=CC=C(C=C2)F | C19H18ClFN2O2
